US07964608B2
1-Cyclopentyl-3-(3-fluoro-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (23 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 1-fluoro-3-isocyanato-benzene (0.5 mmol) following general procedure C. LCMS: m/z 406 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.45 (s, 1H), 7.84 (d, 1H), 7.62 (d, 1H), 7.51 (t, 1H), 7.20 (m, 1H), 7.18 (m, 1H), 7.12 (m, 1H), 7.09 (s, 1H), 5.06 (p, 1H), 4.15 (s, 3H), 2.42 (m, 2H), 2.06-2.18 (m, 4H), 1.26 (m, 2H) ppm.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 1-fluoro-3-isocyanato-benzene | 0.5 mmol | FC1=CC(=CC=C1)N=C=O | C7H4FNO
product | 1-Cyclopentyl-3-(3-fluoro-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 23 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC(=CC=C2)F)=O | C23H20FN3O3
